US08558001B2
Step 3—The preparation of N-(4-bromobenzyl)-2,6-dichloro-4-(2-methoxyethoxy)benzamide
2,6-Dichloro-4-(2-methoxyethoxy)benzoic acid (0.1 g, 0.23 mmol), (4-bromophenyl)methanamine hydrochloride (0.1 g, 0.27 mmol), 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (HATU) (0.17 g, 0.27 mmol), and triethylamine (0.15 mL, 0.7 mmol) were combined in DMF (3 mL) and then stirred at room temperature until reaction was completed. The reaction mixture was diluted with ethyl acetate and washed with water and twice with a saturated sodium bicarbonate solution. The organic phase was dried over magnesium sulfate, filtered and concentrated in vacuum. The solid resulting was used for next step without further purification.

reactant | 2,6-Dichloro-4-(2-methoxyethoxy)benzoic acid | 0.23 mmol, 0.1 g | ClC1=C(C(=O)O)C(=CC(=C1)OCCOC)Cl | C10H10Cl2O4
reactant | (4-bromophenyl)methanamine hydrochloride | 0.27 mmol, 0.1 g | Cl.BrC1=CC=C(C=C1)CN
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 0.27 mmol, 0.17 g | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.7 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-bromobenzyl)-2,6-dichloro-4-(2-methoxyethoxy)benzamide | BrC1=CC=C(CNC(C2=C(C=C(C=C2Cl)OCCOC)Cl)=O)C=C1 | C17H16BrCl2NO3
